US08710043B2
To a the solution of 4-(trifluoromethyl)nicotinaldehyde from above was added DCM (10 mL), (R)-2-methylpropane-2-sulfinamide (1.553 g, 12.81 mmol; See Table 1, footnote 1) (AK Scientific) and copper sulfate (4.09 g, 25.6 mmol) (Aldrich, anhydrous). The suspension was stirred at rt under N2 for 68 h. The suspension was then filtered through Celite® brand filter agent, and the solid was washed with DCM (2×20 mL). The filtrates were concentrated and purified by ISCO (40 g, SiO2, 10-50% EtOAc/hexane) to give (R)-2-methyl-N-((4-(trifluoromethyl)pyridin-3-yl)methylene)propane-2-sulfinamide as a light yellow oil.

reactant | 4-(trifluoromethyl)nicotinaldehyde | FC(C1=CC=NC=C1C=O)(F)F | C7H4F3NO
reactant | (R)-2-methylpropane-2-sulfinamide | 12.81 mmol, 1.553 g | CC(C)(C)[S@@](=O)N | C4H11NOS
catalyst | copper sulfate | 25.6 mmol, 4.09 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-methyl-N-((4-(trifluoromethyl)pyridin-3-yl)methylene)propane-2-sulfinamide | CC(C)(C)[S@@](=O)N=CC=1C=NC=CC1C(F)(F)F | C11H13F3N2OS
